US06329385B1
1-[3-(2-Aminomethyl-6,11-dihydrodibenz[b,e]oxepin-11-ylidene)propyl]-4-(4-chlorophenyl)piperidin-4-ol
To a solution of 4-(4-chlorophenyl)-1-[3-(2-cyano-6,11-dihydrodibenz[b,e]oxepin-11-ylidene)propyl]piperidin-4-ol (380 mg) in EtOH (20 ml) were added Raney nickel (50% slurry in water, 60 mg), and the mixture was hydrogenated at 15 psi for 2 hours. The mixture was filtered through the celite and distilled off under reduced pressure. The residue was purified by silica gel chromatography eluting with dichloromethane-methanol-aqueous ammonium (95:5:1) to give the titled compound (130 mg).

reactant | 4-(4-chlorophenyl)-1-[3-(2-cyano-6,11-dihydrodibenz[b,e]oxepin-11-ylidene)propyl]piperidin-4-ol | 380 mg | ClC1=CC=C(C=C1)C1(CCN(CC1)CCC=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C#N)O | C29H27ClN2O2
solvent | EtOH | 20 ml | CCO | C2H6O
catalyst | Raney nickel | 60 mg | [Ni] | Ni
product | 1-[3-(2-Aminomethyl-6,11-dihydrodibenz[b,e]oxepin-11-ylidene)propyl]-4-(4-chlorophenyl)piperidin-4-ol | 130 mg | NCC1=CC2=C(OCC3=C(C2=CCCN2CCC(CC2)(O)C2=CC=C(C=C2)Cl)C=CC=C3)C=C1 | C29H31ClN2O2
